US04827011
4-(Hexadecyloxy)-3-(phenylmethoxy)-2-butanol
To a solution of 10 g of 3-(hexadecyloxy)-2-(phenylmethoxy)-propanal in 120 ml of dry tetrahydrofuran, under argon, at 5° C., was added dropwise 16.4 ml of 3M methyl magnesium bromide in ether at a rate to maintain the temperature below 8° C. The mixture was stirred at 5° C. for 15 minutes, then at room temperature for 3 hours, recooled to 5° C. and 50 ml of 1N hydrochloric acid was added dropwise at a rate to maintain the temperature below 10° C. The organic phase was separated and the aqueous phase extracted with ether. The ether extract was combined with the organic phase, washed with saturated aqueous sodium bicarbonate, then saturated brine, dried and taken to dryness. The residue was dissolved in petroleum ether, washed with saline, dried and taken to dryness. The residue was purified by HPLC using ether:hexane (1:5), giving 6.16 g of the desired compound as a pale yellow oil.

reactant | 3-(hexadecyloxy)-2-(phenylmethoxy)-propanal | 10 g | C(CCCCCCCCCCCCCCC)OCC(C=O)OCC1=CC=CC=C1 | C26H44O3
reactant | methyl magnesium bromide | 3M, 16.4 ml | C[Mg]Br
reactant | hydrochloric acid | 1N, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-(Hexadecyloxy)-3-(phenylmethoxy)-2-butanol | 6.16 g | C(CCCCCCCCCCCCCCC)OCC(C(C)O)OCC1=CC=CC=C1 | C27H48O3
